US06177440B1
A suspension of 3-(3-carbomethoxy-2-bromoanilino)-5-methyl-cyclohex-2-en-1-one (9.98 g, 29.5 mM), palladium acetate (0.66 g, 2.95 mM), tri-o-tolylphosphine (1.8 g, 5.9 mM), and triethylamine (5.10 ml, 36.6 mM) in 75 mL acetonitrile was heated at reflux for 3 hours. The solvent was removed in vacuo. The residue was dissolved in methylene chloride, washed with 1 N HCl, then with saturated brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford 11 g of crude product. Purification by HPLC on silica gel (elution with gradient methylene chloride/ethyl acetate) afforded 5.7 g (75%) of 5-carbomethoxy-1,2-dihydro-2-methyl-9H-carbazol-4(3H)-one. 1H NMR (CDCl3) δ 9.5 (bs, 1H), 7.4 (d, J=8 Hz, 1H), 7.35 (d, J=8 Hz, 1H), 7.2 (dd, J=8 and 8 Hz, 1H), 4.0 (s, 3H), 2.9 (dd, J=13 and 4 Hz, 1H), 2.55 (m, 2H), 2.4 (m, 1H), 2.25 (dd, J=15 and 9 Hz, 1H), 1.05 (d, J=7 Hz, 3H). MS (ES) m/e 226, 258.

reactant | 3-(3-carbomethoxy-2-bromoanilino)-5-methyl-cyclohex-2-en-1-one | 29.5 mM, 9.98 g | C(=O)(OC)C=1C(=C(NC2=CC(CC(C2)C)=O)C=CC1)Br | C15H16BrNO3
reactant | tri-o-tolylphosphine | 5.9 mM, 1.8 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 36.6 mM, 5.10 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
catalyst | palladium acetate | 2.95 mM, 0.66 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-carbomethoxy-1,2-dihydro-2-methyl-9H-carbazol-4(3H)-one | 5.7 g, 75% | C(=O)(OC)C1=C2C=3C(CC(CC3NC2=CC=C1)C)=O | C15H15NO3
